US06833421B1
0.32 ml (2 mmol) 1,8-diazabicyclo[5.4.0]undec-7-ene(1,5-5) (DBU) in 2 ml N,N-dimethylformamide (DMF) were added dropwise to a solution of 0.2 ml (1.9 mmol) 2-methylacrylic acid in 2 ml DMF. After addition of 2 mg phenothiazine, 60 mg tetrabutylammonium iodide and 1.1 g (1.6 mmol) (E)-3-[4-[[3-[(6-chlorohexyl)oxy]-5-[[2-methoxy-4[(E)-2-(methoxycarbonyl)vinyl]phenoxy]methyl]benzyl]oxy]-3-methoxyphenyl]-2-cyanoacrylic acid methyl ester in 7 ml DMF the resulting mixture was stirred at 80° C. for 20 hours. The reaction mixture was poured into an ice cold 1 M HCl solution. The aqueous phase was extracted three times with ethyl acetate. The organic phase was washed with a saturated sodium bicarbonate solution and repeatedly with water, dried over magnesium sulfate, filtered and concentrated by vacuum evaporation. The crude product was filtered through a thin silica gel layer. (eluent: ethyl acetate). The filtrate was evaporated to dryness and recrystallized from ethanol to yield 0.35 g (30%) of 2-methylacrylic acid 6-[3-[2-methoxy-4-[2-cyano-(E)-2-(methoxycarbonyl)vinyl]phenoxymethyl]-5-[2-methoxy-4-[(E)-2-(methoxycarbonyl)vinyl]phenoxymethyl]phenoxy]hexyl ester as slightly yellow crystals.

reactant | 2-methylacrylic acid | 1.9 mmol, 0.2 ml | CC(C(=O)O)=C | C4H6O2
reactant | (E)-3-[4-[[3-[(6-chlorohexyl)oxy]-5-[[2-methoxy-4[(E)-2-(methoxycarbonyl)vinyl]phenoxy]methyl]benzyl]oxy]-3-methoxyphenyl]-2-cyanoacrylic acid methyl ester | 1.6 mmol, 1.1 g | COC(\C(=C\C1=CC(=C(C=C1)OCC1=CC(=CC(=C1)COC1=C(C=C(C=C1)\C=C\C(=O)OC)OC)OCCCCCCCl)OC)\C#N)=O | C37H40ClNO9
solvent | N,N-dimethylformamide | 2 ml | CN(C=O)C | C3H7NO
solvent | DMF | 2 ml | CN(C=O)C | C3H7NO
catalyst | tetrabutylammonium iodide | 60 mg | [I-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | DMF | 7 ml | CN(C=O)C | C3H7NO
catalyst | phenothiazine | 2 mg | C1=CC=CC=2SC3=CC=CC=C3NC12 | C12H9NS
product | 2-methylacrylic acid 6-[3-[2-methoxy-4-[2-cyano-(E)-2-(methoxycarbonyl)vinyl]phenoxymethyl]-5-[2-methoxy-4-[(E)-2-(methoxycarbonyl)vinyl]phenoxymethyl]phenoxy]hexyl ester | 0.35 g, 30% | COC1=C(OCC=2C=C(OCCCCCCOC(C(=C)C)=O)C=C(C2)COC2=C(C=C(C=C2)\C=C\C(=O)OC)OC)C=CC(=C1)\C=C(\C(=O)OC)/C#N | C41H45NO11
